US06043240
(G) 3-(4-Methyl-1-piperazinyl)-1H-indazole
A stirred mixture of 3-(4-methyl-1-piperazinyl)-1-phenylsulfonyl-1H-indazole (13.5 g, 38 mmol), methanol (150 ml) and 25% CH3ONa in methanol (15.3 ml) was stirred and refluxed for 2.5 hours. The reaction was concentrated to about one-tenth its volume, and water was added to the mixture, resulting in a red solution. The solution was extracted with dichloromethane, the extract washed (H2O), dried (MgSO4), and the solvent was concentrated to afford 6.6 g of a rose-colored solid. Two recrystallizations from toluenehexane afforded 4.3 g (52%) of 3-(4-methyl-1-piperazinyl)-1H-indazole as an off-white solid, m.p.=111-113° C.

reactant | 3-(4-methyl-1-piperazinyl)-1-phenylsulfonyl-1H-indazole | 38 mmol, 13.5 g | CN1CCN(CC1)C1=NN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C18H20N4O2S
reactant | CH3ONa | CO[Na]
solvent | methanol | 15.3 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 3-(4-Methyl-1-piperazinyl)-1H-indazole | 6.6 g | CN1CCN(CC1)C1=NNC2=CC=CC=C12 | C12H16N4
